US06218397B1
4-Chloro-3-methylsulfanyl-6-methyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidine
A mixture of 3-methylsulfanyl-6-methyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidine-4-ol (3.700 g, 9.85 mmol) and phosphorous oxychloride (18.115 g, 11 ml) was heated at reflux for 4 hours. The mixture was cooled and poured over ice-water and stirred for 10 minutes. Precipitate formed and was filtered to give a brown solid. The brown solid was pumped in vacuo to give 3.718 g (96% yield). 1H NMR (CDCl3): 2.65(s,3H),2.7(s,3H), 7.5(s,2H)ppm.

reactant | 3-methylsulfanyl-6-methyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidine-4-ol | 9.85 mmol, 3.700 g | CSC1=NN(C2=NC(=NC(=C21)O)C)C2=C(C=C(C=C2Cl)Cl)Cl | C13H9Cl3N4OS
reactant | phosphorous oxychloride | 11 ml, 18.115 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-3-methylsulfanyl-6-methyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidine | 96% yield | ClC1=C2C(=NC(=N1)C)N(N=C2SC)C2=C(C=C(C=C2Cl)Cl)Cl | C13H8Cl4N4S
